US08865726B2
(S)-4-isopropyl-3-(3-(3-methyl-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.138 g, 64%) was prepared by the procedure described in Example 1, Step 9, using a mixture of (S)-4-isopropyl-3-(3-(3-methyl-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl) oxazolidin-2-one and (S)-4-isopropyl-3-(3-(3-methyl-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.285 g, 0.534 mmol), to produce a yellow solid. LCMS (APCI+) m/z 404.6 [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 11.40 (broad s, 1H), 8.60 (d, J=7.8 Hz, 1H), 8.41 (s, 1H), 8.22 (s, 1H), 8.05 (d, J=7.8 Hz, 1H), 7.94 (s, 1H), 7.87 (d, J=8.0 Hz, 1H), 7.81 (d, J=8.2 Hz, 1H), 4.97-4.93 (m, 1H), 4.48-4.38 (m, 2H), 2.94-2.87 (m, 1H), 2.65 (s, 3H), 1.07 (d, J=7.0 Hz, 3H), 0.93 (d, J=6.8 Hz, 3H).

reactant | (S)-4-isopropyl-3-(3-(3-methyl-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl) oxazolidin-2-one | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)C | C27H35N7O3Si
reactant | (S)-4-isopropyl-3-(3-(3-methyl-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.534 mmol, 0.285 g | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NC=NN2COCC[Si](C)(C)C)C | C27H35N7O3Si
product | (S)-4-isopropyl-3-(3-(3-methyl-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.138 g, 64% | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NNC=N2)C | C21H21N7O2
